US06077963
A slurry of malonate monoethyl ester magnesium salt is prepared by adding an acetone slurry of potassium malonate monoethyl ester (144 g, 846 mmoles in 350 ml of acetone) to a slurry of magnesium chloride (72 g, 756 mmoles) which has been prepared by the slow addition of acetone (250 ml) to a slurry of magnesium chloride in methylene chloride (100 ml.) The malonate salt preparation is completed by atmospheric distillation to a volume of 350 ml.

reactant | acetone | CC(=O)C | C3H6O
reactant | potassium malonate monoethyl ester | 846 mmoles, 350 ml, 144 g | C(C)OC(CC(=O)[O-])=O.[K+]
reactant | magnesium chloride | 756 mmoles, 72 g | [Cl-].[Mg+2].[Cl-]
reactant | acetone | 250 ml | CC(=O)C | C3H6O
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | malonate monoethyl ester magnesium salt | [Mg+2].C(C)OC(CC(=O)[O-])=O.C(CC(=O)[O-])(=O)OCC | InChI=1S/2C5H8O4.Mg/c2*1-2-9-5(8)3-4(6)7;/h2*2-3H2,1H3,(H,6,7);/q;;+2/p-2
